US07625932B2
Additional Preparation of ethyl 3-(4-bromophenyl)-4-cyano-5-ethyl-1-methylpyrrole-2-carboxylate
Step DII: In a 500 mL round bottom flask, a mixture of 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (20.00 g, 60.2 mmol, preparation 38), Pd(OAc)2 (202 mg, 0.901 mmol, 0.0150 equiv)), Ph3P (479 mg, 1.83 mmol, 0.0304 equiv) and 1-hexylpyridinium chloride (C6PyCl, 10.0 mL) is degassed 3 times by alternating house vacuum (15 seconds) and nitrogen. Degassed heptane (200 mL) is added and the mixture is kept under nitrogen and heated to ˜80° C. (nearly to reflux). The resulting brown solution is allowed to cool to rt. 4-Bromophenylboronic acid (13.60 g, 67.66 mmol, 1.12 equiv) and degassed 2M Na2CO3 (60.0 mL, 120 mmol, 2.00 equiv) are added. The mixture is heated at 84.5° C. (reflux) for 5.5 h under nitrogen. Upon cooling to rt, water (200 mL) and EtOAc (50 mL) are added and stirred for 15 min. until the layers separate. The aqueous phase is extracted 3 times with EtOAc (100 mL each). The combined organic extracts are washed with water (100 mL) and brine (100 mL), dried Na2SO4), filtered and concentrated on the rotovap. This provides 21.3 g of crude title compound. 42 mL EtOH and 4 mL THF are added to this solid and the mixture is heated to 60° C. at which point everything dissolves. Eight mL water is added at 60° C. and the solution is allowed to slowly cool. At ˜40° C. solids start to form. The mixture is cooled to 28° C. then placed in an ice bath to cool to 8° C. The solids are collected by filtration and rinsed three times with cold EtOH (25 mL each). The wet material is dried in a vacuum oven at 40° C. to provide 13.78 g of title compound (63% yield).

reactant | 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 60.2 mmol, 20.00 g | C(C)OC(=O)C=1N(C(=C(C1I)C#N)CC)C | C11H13IN2O2
reactant | 1-hexylpyridinium chloride | 10.0 mL | [Cl-].C(CCCCC)[N+]1=CC=CC=C1
reactant | 4-Bromophenylboronic acid | 67.66 mmol, 13.60 g, 1.12 equiv | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | Na2CO3 | 120 mmol, 2M, 60.0 mL, 2.00 equiv | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(OAc)2 | 0.901 mmol, 202 mg, 0.0150 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Ph3P | 1.83 mmol, 479 mg, 0.0304 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 200 mL | O | H2O
product | ethyl 3-(4-bromophenyl)-4-cyano-5-ethyl-1-methylpyrrole-2-carboxylate | 13.78 g, 63% yield | BrC1=CC=C(C=C1)C1=C(N(C(=C1C#N)CC)C)C(=O)OCC | C17H17BrN2O2
